US04987132
A mixture of 5.80 g of p-nitrocinnamic acid, 10.4 g of methyl iodide, 10.4 g of anhydrous potassium carbonate and 200 ml of acetone was stirred at room temperature for 2 days. The resultant precipitate was filtered off, the filtrate was concentrated under reduced pressure and, after addition of water, the residue was extracted with ethyl acetate. The organic layer was washed with saturated solution of sodium hydrogen carbonate and saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 3.30 g of methyl 4-nitrocinnamate.

reactant | p-nitrocinnamic acid | 5.80 g | [N+](=O)([O-])C1=CC=C(C=CC(=O)O)C=C1 | C9H7NO4
reactant | methyl iodide | 10.4 g | CI | CH3I
reactant | potassium carbonate | 10.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | methyl 4-nitrocinnamate | 3.30 g | [N+](=O)([O-])C1=CC=C(C=CC(=O)OC)C=C1 | C10H9NO4
